US06271015B1
20. Methyl-9-bromo-nonanoate (Intermediate for Compound 100: FIG. 5)
A solution of methyl-9-hydroxy-nonanoate (1.1 g, 5.85 mmol, 1.0 equiv) in CH2Cl2 (30 mL, 0.2 M) at 0° C. was treated successively with CBr4 (2.5 g, 7.54 mmol, 1.3 equiv) and PPh3 (2.15 g, 8.19 mmol, 1.4 equiv) and the reaction mixture was stirred at 4° C. for 10 h. The reaction mixture was then concenctrated under reduced pressure and washed repeatedly with Et2O (8×10 mL washes). The Et2O washes were combined and concentrated under reduced pressure. Chromatography (SiO2,5 cm×15 cm, hexanes) afforded the intermediate as a clear, colorless oil (1.02 g, 1.47 g theorectical, 69.5 %): 1H NMR (CDCl3,250 MHz) d 3.64 (s, 3H, C(O)OCH3), 3.38 (t, 2H, J=6.8 Hz, CH2Br), 2.29 (t, 2H, J=7.4 Hz CH2C(O)OCH3), 1.83 (p, 2H, cH2CH2Br), 1.63 (m, 2H, CH2CH2C(O)OCH3) 1.47-1.28 (m, 8H, alkyl protons).

reactant | methyl-9-hydroxy-nonanoate | 5.85 mmol, 1.1 g, 1.0 equiv | COC(CCCCCCCCO)=O | C10H20O3
reactant | CBr4 | 7.54 mmol, 2.5 g, 1.3 equiv | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 8.19 mmol, 2.15 g, 1.4 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 0.2 M, 30 mL | C(Cl)Cl | CH2Cl2
product | Methyl-9-bromo-nonanoate | COC(CCCCCCCCBr)=O | C10H19BrO2
